US04013645
Diphenylmethyl 7β-formamido-3-methylthiomethylceph-3-em-4-carboxylate (0.88g., 0.0019 mole) in methanol (10 ml.) was treated dropwise with concentrated hydrochloric acid (1.0ml.). A colourless precipitate separated immediately but after 5 min. stirring this dissolved. However, after 15 min. a second precipitate came down, and after the mixture was refrigerated for 2 hr., the solid was harvested by filtration, washed with a little water, then dried over phosphorus pentoxide. The dried solid was stirred with ethyl acetate (15 ml. for 2 hr., × 2) to leach out unchanged starting material, the remaining solid was collected by filtration, washed with ether and dried, giving diphenylmethyl 7β-amino-3-methylthiomethylceph-3-em-4-carboxylate hydrochloride (0.35 g.), TLC RF 0.83. [Found: Cl (ionic), 7.6. C22H23N2O3S2Cl (463.0) requires Cl, 7.7%]. A portion (0.33g.) of this hydrochloride was stirred in a mixture of 3%-sodium bicarbonate (30 ml.) and ethyl acetate (30 ml.) until it dissolved (2 hr.). The ethyl acetate layer was collected and combined with a further ethyl acetate extract (25 ml.) of the aqueous layer, the combined extract washed with water (30 ml.), dried (magnesium sulphate), and the solvent evaporated, leaving an oil which solidified, giving diphenylmethyl 7β-amino-3-methylthiomethylceph-3-em-4-carboxylate (0.28 g.), TLC RF 0.83, m.p. 119°-123° [α]D -81.4° (c 1.00, dioxan), λmax (ethanol) 270 nm. (ε 7,130), νmax. (CHBr3) 3390, 3320 (NH2), 1768 (β-lactam), 1712 cm.- 1 (ester), τ (CDCl3) 2.86 (10-proton singlet; aromatic protons), 3.05 (1-proton singlet; Ph2CH), 5.03 (1-proton doublet, J 5 Hz.; C-6 H), 5.29 (1-proton broad doublet, J 5 Hz.; C-7 H), 6.37, 6.67 [two 1-proton doublets (branches of a quartet), J 13.5 Hz.; C-3 CH2 ], 6.45 (2-proton singlet; C-2 H2), 8.16 (3-proton singlet; SCH3), 8.22 (2-proton broad singlet, NH2). A portion (0.200 g., 0.0005 mole) of this amine was dissolved in ethyl acetate (4 ml.) and ether (2 ml.) and a solution of p-toluenesulphonic acid monohydrate (0.089g., 0.0005mole) was added. The precipitate was collected by filtration, washed with ethyl acetate: ether=1:1, and dried giving diphenylmethyl 7β-amino-3-methylthiomethylceph-3-em-4-carboxylate, hydrogen p-toluenesulphonate as a colourless powder (0.126 g.), m.p. 159°-161° (decomp), [α]D -33.2° (c 1.00, dimethylacetamide), λmax. (ethanol) 264 nm. (ε 7,560), νmax. (CHBr3) ~ 2600 (NH3), 1785 (β-lactam), 1720 (ester), 1005 cm.-1 (SO3-), τ (CDCl3 with DMSO d-6) 1.6-2.3 (3-proton singlet; NH3), 2.23, 2.90 [two-proton doublets (branches of a quartet), J 9 Hz.; p-disubstituted aromatic protons], 2.70 (10-proton singlet; aromatic protons) 3.11 (1-proton singlet; Ph2CH), 4.88, 4.98 (2 two 1-proton doublets, J 5 Hz.; C-6 H, C-7 H), 6.14, 6.47 [two 1-proton doublets (branches of a quartet), J 13.5 Hz.; C-3 CH2 ], 6.30, 6.85 [two 1-proton doublets (branches of a quartet), J 16 Hz,: C-2 H2 ] 7.68 (3-proton singlet; CH3C ), 8.16 (3-proton singlet; CH3S). [Found: C, 58.7; H, 5.0; N, 4.3; S, 15.6. C29H30N2O6S3 (598.8) requires C, 58.5; H, 5.0; N, 4.7; S, 16.0%].

reactant | Diphenylmethyl 7β-formamido-3-methylthiomethylceph-3-em-4-carboxylate | 0.0019 mole, 0.88g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N2O4S2
reactant | hydrochloric acid | 1.0ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | diphenylmethyl 7β-amino-3-methylthiomethylceph-3-em-4-carboxylate hydrochloride | 0.35 g | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C22H22N2O3S2.ClH/c1-28-12-16-13-29-21-17(23)20(25)24(21)18(16)22(26)27-19(14-8-4-2-5-9-14)15-10-6-3-7-11-15;/h2-11,17,19,21H,12-13,23H2,1H3;1H/t17-,21-;/m1./s1
